US09227976B2
Step 4: 4-chloro-1-methyl-5-phenyl-3-pyrrolidin-1-yl-pyrazolo[3,4-c]pyridazine (Compound XIIIc)
A suspension of 1-methyl-5-phenyl-3-(pyrrolidin-1-yl)-1H-pyrazolo[3,4-c]pyridazin-4-ol (117 mg) in POCl3 (1.9 mL) was heated to 60° C. for 2.5 h. The mixture was concentrated in vacuo and the residue was partitioned between CH2Cl2 and sat. aq. NaHCO3 solution. The layers were separated and the aqueous was extracted with CH2Cl2, the combined organics were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel to give the title compound (81 mg).

reactant | 1-methyl-5-phenyl-3-(pyrrolidin-1-yl)-1H-pyrazolo[3,4-c]pyridazin-4-ol | 117 mg | CN1N=C(C2=C1N=NC(=C2O)C2=CC=CC=C2)N2CCCC2 | C16H17N5O
reactant | POCl3 | 1.9 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-methyl-5-phenyl-3-pyrrolidin-1-yl-pyrazolo[3,4-c]pyridazine | 81 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2N2CCCC2)C | C16H16ClN5
